US04956359
3-(4-Chlorophenoxy)-N-(2-propynyl)-1-azetidinecarboxamide
A stirred mixture of 7.4 g (0.03 mole) of 3-(4-chlorophenoxy)-1-azetidinecarbonyl chloride and 4.5 g (0.03 mole) of potassium carbonate in 20 ml of tetrahydrofuran was treated with 1.7 g (0.03 mole) of 2-propynylamine added dropwise from a needle and syringe. After stirring for 16 hr, the reaction mixture was diluted with 400 ml of water and the resulting tan solid was collected by filtration, yielding 7.7 g of crude product. Repeated triturations of the crude product with hot benzene gave upon combining and cooling 1.2 g (15.2%) of tan powder, m.p. 120°-122° C.

reactant | 3-(4-chlorophenoxy)-1-azetidinecarbonyl chloride | 0.03 mole, 7.4 g | ClC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9Cl2NO2
reactant | potassium carbonate | 0.03 mole, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propynylamine | 0.03 mole, 1.7 g | C(C#C)N | C3H5N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 400 ml | O | H2O
product | 3-(4-Chlorophenoxy)-N-(2-propynyl)-1-azetidinecarboxamide | ClC1=CC=C(OC2CN(C2)C(=O)NCC#C)C=C1 | C13H13ClN2O2
